US04657908
2-Furoyl chloride (145 mg.) was added to a mixture of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(3-aminopropylthio)pyrimidine (308 mg.), EtOH (10 ml.) and triethylamine (0.5 ml.), the mixture left at room temperature for 2 hours and then evaporated to dryness. The residue was dissolved in N aqueous HCl and the solution washed with EtOAc. The aqueous phase was basified with 10N aqueous NaOH and then extracted with EtOAc, and the extract was dried amd evaporated to dryness. The residue was recrystallised from EtOAc to give N-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidin-2-yl-thio)propyl]-2-furamide (300 mg.), m.p. 127°-129°.

reactant | 2-Furoyl chloride | 145 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(3-aminopropylthio)pyrimidine | 308 mg | FC(CN=C(NC1=NC(=NC=C1)SCCCN)N)(F)F | C10H15F3N6S
reactant | EtOH | 10 ml | CCO | C2H6O
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidin-2-yl-thio)propyl]-2-furamide | 300 mg | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(=O)C=1OC=CC1)N)(F)F | C15H17F3N6O2S
